US07196099B2
To a solution of 4-azido-3-hydroxy-azepane-1-carboxylic acid benzyl ester (3.3 g, 11.37 mmol) in methanol (50 mL) was added triethylamine (5 mL) and 1,3-propanedithiol (3.42 mL, 35 mmol). The mixture was stirred at ambient temperature until TLC analysis showed complete consumption of the starting material. A white precipitate was removed by filtration and the filtrate was evaporated to dryness. The residue was triturated with a 1:1 hexane/diethyl ether mixture to remove excess dithiol and dried under vacuum to yield 4-amino-3-hydroxy-azepane-1-carboxylic acid benzyl ester.

reactant | 4-azido-3-hydroxy-azepane-1-carboxylic acid benzyl ester | 11.37 mmol, 3.3 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(CCC1)N=[N+]=[N-])O | C14H18N4O3
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-propanedithiol | 35 mmol, 3.42 mL | C(CCS)S | C3H8S2
solvent | methanol | 50 mL | CO | CH4O
product | 4-amino-3-hydroxy-azepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(C(CCC1)N)O | C14H20N2O3
